US07071182B2
A mixture of N-[1-(2,2-dimethoxyethyl)-1H-indazol-6-yl]-2-(4-phenoxyphenyl)acetamide (2.0 g, 4.64 mmol) and 2N aqueous HCl (6.0 mL)in acetone (40 mL) was heated to reflux for 3 hours, cooled and diluted with ethyl acetate (300 mL). The layers were separated, and the organic was dried (Na2SO4), filtered, and concentrated under reduced pressure to provide N-[1-(2-oxoethyl)-1H-indazol-6-yl]-2-(4-phenoxyphenyl)acetamide as a beige solid. 1H NMR (300 MHz, DMSO-d6) δ ppm 3.55 (s, 2 H), 3.7 (m, 2 H), 7.0 (m, 4 H), 7.1 (m, 2 H), 7.3 (m, 1 H), 7.4 (m, 4 H), 8.0 (s, 1 H), 8.15 (s, 1 H), 10.4 (s, 1 H), and 12.8 (s, 1 H); MS (ESI) 384.1 (M−H)−.

reactant | N-[1-(2,2-dimethoxyethyl)-1H-indazol-6-yl]-2-(4-phenoxyphenyl)acetamide | 4.64 mmol, 2.0 g | COC(CN1N=CC2=CC=C(C=C12)NC(CC1=CC=C(C=C1)OC1=CC=CC=C1)=O)OC | C25H25N3O4
reactant | HCl | 2N, 6.0 mL | Cl | ClH
solvent | acetone | 40 mL | CC(=O)C | C3H6O
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
product | N-[1-(2-oxoethyl)-1H-indazol-6-yl]-2-(4-phenoxyphenyl)acetamide | O=CCN1N=CC2=CC=C(C=C12)NC(CC1=CC=C(C=C1)OC1=CC=CC=C1)=O | C23H19N3O3
